US06333315B1
Synthesis of 2′-deoxy-4′-C-ethynylinosine (Compound 29)
To a Tris-HCl buffer solution (6 ml, pH 7.5) of Compound 23 (0.022 g, 0.08 mmol), adenosine deaminase (0.044 ml, 20 unit) was added, and the mixture was stirred for 2.5 hours at 40° C., followed by cooling to room temperature. The reaction mixture was applied to a reverse-phase ODS silica gel column (50 g), desalted by water (500 ml) flow, and through use of a 2.5% aqueous ethanol, Compound 29 was eluted. Subsequently, the Compound 29 was pulverized with isopropanol, to thereby yield 0.016 g of Compound 29 (72%).

reactant | Tris-HCl | 6 ml, pH 7.5 | C(C(CO)(CO)N)O.Cl
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | water | 500 ml | O | H2O
product | 2′-deoxy-4′-C-ethynylinosine | C(#C)[C@]1([C@H](C[C@@H](O1)N1C=NC=2C(O)=NC=NC12)O)CO | C12H12N4O4
